US05075043
Methyl 3-(4-acetamidophenylsulfonyl)-propionate
To a stirred solution of 23° C. of 4-acetamidobenzenesulfinic acid (57.8 g., 290 mmol), sodium hydroxide (11.6 g, 290 mmol), and sodium dihydrogen phosphate (40.0 g, 290 mmol) was added a solution of methyl acrylate (31.2 g, 362 mmol) in 50 mL of tetrahydrofuran. The reaction vessel was stirred at 23° C. for 18 hours, and the resulting white precipitate was filtered and washed with water. The product was air dried, then recrystallized from 2-butanone to produce 59.4 g (71%) of a white powder, mp 156°-158° C.

reactant | 4-acetamidobenzenesulfinic acid | 290 mmol, 57.8 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)O | C8H9NO3S
reactant | sodium hydroxide | 290 mmol, 11.6 g | [OH-].[Na+]
reactant | sodium dihydrogen phosphate | 290 mmol, 40.0 g | P(=O)(O)(O)[O-].[Na+]
reactant | methyl acrylate | 362 mmol, 31.2 g | C(C=C)(=O)OC | C4H6O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Methyl 3-(4-acetamidophenylsulfonyl)-propionate | 59.4 g, 71% | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)CCC(=O)OC | C12H15NO5S
